datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc(C(O)C[NH2:10])cc1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>COc1ccc(C(O)C[NH2+:10][H:20])cc1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Clc1ccc(C(Nc2ccccc2)[O-:10])cc1.O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1.O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"CCCCCOc1ccc(C(=O)[O-:10])cc1.O=C(c1ccccc1)n1c[n+:21]([H:20])c2ccccc21>>CCCCCOc1ccc(C(=O)[O:10][H:20])cc1.O=C(c1ccccc1)n1c[n:21]c2ccccc21 10=20;20,21=21",
"CCC(P)C(=O)[O-:10].OCCc1cnc(P(c2ncc(CCO)[nH]2)c2[nH]c(CCO)c[n+:21]2[H:20])[nH]1>>CCC(P)C(=O)[O:10][H:20].OCCc1cnc(P(c2ncc(CCO)[nH]2)c2[nH]c(CCO)c[n:21]2)[nH]1 10=20;20,21=21",
"NCCc1ccc([O-:10])cc1.Nc1nc(N)nc(N/C(Nc2ccccc2)=[NH+:21]/[H:20])n1>>NCCc1ccc([O:10][H:20])cc1.Nc1nc(N)nc(NC(Nc2ccccc2)=[NH:21])n1 10=20;20,21=21",
"CCCC[NH:10]CCN.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCC[NH+:10](CCN)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCCCCCCC[NH:10]CCC(=O)[O-].N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CCCCC[NH:10]Cc1ccc(C)cc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Cc1ccc(C[NH2:10])cc1.NC1=[N+:21]([H:20])[C@H]2C[C@@H](N1)N[C@@H]2C(=O)[O-]>>Cc1ccc(C[NH2+:10][H:20])cc1.NC1=[N:21][C@H]2C[C@@H](N1)N[C@@H]2C(=O)[O-] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1nc2ccc([O-:10])cc2s1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1nc2ccc([O:10][H:20])cc2s1 10=20;20,21=21",
"CCCCCC[NH+:21](CCC(=O)[O-])[H:20].ClCC[N:10]1CCOCC1>>CCCCCC[NH:21]CCC(=O)[O-].ClCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"O=C(c1ccccc1)N1CC[NH:10]CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(c1ccccc1)N1CC[NH+:10]([H:20])CC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Clc1ccc([O-:10])cc1Cl.[S-]c1cccc[n+:21]1[H:20]>>Clc1ccc([O:10][H:20])cc1Cl.[S-]c1cccc[n:21]1 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@@H]1C(=O)[O-:10].N#Cc1ccc([O:21][H:20])c(O)c1>>CC(=O)[C@@H]1C[C@@H]1C(=O)[O:10][H:20].N#Cc1ccc([O-:21])c(O)c1 10=20;20,21=21",
"C1CC[NH:10]C1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CC[NH+:10]([H:20])C1.O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C1C=Cc2ccc([O-:10])c(O)c2O1.c1ccc(C2C[N+:21]3([H:20])CCC2CC3)cc1>>O=C1C=Cc2ccc([O:10][H:20])c(O)c2O1.c1ccc(C2C[N:21]3CCC2CC3)cc1 10=20;20,21=21",
"O=P([O-])(O)C([NH2+]Cc1cc[n+:21]([H:20])cc1)c1ccccc1O.O=[N+]([O-])c1cccc([O-:10])c1[O-]>>O=P([O-])(O)C([NH2+]Cc1cc[n:21]cc1)c1ccccc1O.O=[N+]([O-])c1cccc([O:10][H:20])c1[O-] 10=20;20,21=21",
"C[N:10]1C[C@@H](CO)C[C@H]2c3cccc4[nH]cc(c34)C[C@@H]21.N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1>>C[N+:10]1([H:20])C[C@@H](CO)C[C@H]2c3cccc4[nH]cc(c34)C[C@@H]21.N#Cc1ccc(O[C@H]2O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]2O)cc1 10=20;20,21=21",
"C[C@@H]1CNC[C@H](C)[NH:10]1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[C@@H]1CNC[C@H](C)[NH+:10]1[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC1(C)CCC(C2CCC(C)(C)[NH:10]2)N1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC1(C)CCC(C2CCC(C)(C)[NH+:10]2[H:20])N1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[N+](C)(C)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[N+](C)(C)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCN(C(=O)c1ccc([O-:10])cc1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCN(C(=O)c1ccc([O:10][H:20])cc1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1ccnc(-c2cc(C)cc[n+:21]2[H:20])c1.c1cncc(C(c2ccncc2)(c2ccncc2)[O-:10])c1>>Cc1ccnc(-c2cc(C)cc[n:21]2)c1.c1cncc(C(c2ccncc2)(c2ccncc2)[O:10][H:20])c1 10=20;20,21=21",
"O=C([O-])c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(CCCC[N+:21]1([H:20])CCOCC1)c1ccccc1.c1ccc(C(CC[N:10]2CCOCC2)c2ccccc2)cc1>>O=C(CCCC[N:21]1CCOCC1)c1ccccc1.c1ccc(C(CC[N+:10]2([H:20])CCOCC2)c2ccccc2)cc1 10=20;20,21=21",
"CC(C)(/C=C/C(=O)[O:21][H:20])c1cc([N+](=O)[O-])ccc1O.NCCC[NH2:10]>>CC(C)(/C=C/C(=O)[O-:21])c1cc([N+](=O)[O-])ccc1O.NCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)(C)CC(C)(C)[NH2+:21][H:20].CC1CN(C)CC[N:10]1C>>CC(C)(C)CC(C)(C)[NH2:21].CC1CN(C)CC[N+:10]1(C)[H:20] 10=20;20,21=21",
"CC(C)c1ccc(C(=O)/C=C/C(=O)[O:21][H:20])cc1.N#CCC[NH:10]CCC#N>>CC(C)c1ccc(C(=O)/C=C/C(=O)[O-:21])cc1.N#CCC[NH+:10](CCC#N)[H:20] 10=20;20,21=21",
"Cc1c(OC(=O)N(C)C)nc(N(C)C)[n:10]c1C.Cc1ccc(-c2oc(-c3ccc(Br)cc3)c[n+:21]2[H:20])cc1>>Cc1c(OC(=O)N(C)C)nc(N(C)C)[n+:10]([H:20])c1C.Cc1ccc(-c2oc(-c3ccc(Br)cc3)c[n:21]2)cc1 10=20;20,21=21",
"CCOc1cc[n:10]c([O-])n1.Cc1ccc([O:21][H:20])cc1C>>CCOc1cc[n+:10]([H:20])c([O-])n1.Cc1ccc([O-:21])cc1C 10=20;20,21=21",
